US07807673B2
Step A: 2,2,2-Trifluoro-N-(5-nitro-2,3-dihydro-1H-inden-2-yl)acetamide
TFAA (361 μL, 2.6 mmol) was added dropwise to a solution of (5-nitro-2,3-dihydro-1H-inden-2-yl)amine hydrochloride (500 mg, 2.3 mmol), TEA (327 μL, 2.3 mmol) and DCM (20 mL) stirring at 0° C. The ice bath was allowed to warm and the reaction stirred at rt for 15 h. The reaction was washed in a separatory funnel with saturated aqueous NaHCO3 followed by brine and then dried over Na2SO4. The solvent was removed under vacuum and the residue was purified by silica gel flash column chromatography (DCM: 0-100% 90:9:1 DCM:MeOH:NH4OH(aq)). Purification yielded 476 mg (84%) of product as a white powder. 1H NMR (400 MHz, DMSO-d6) δ 9.75 (d, J=6.8 Hz, 1H), 8.10 (s, 1H), 8.06 (dd, J=8.3, 2.2 Hz, 1H), 7.49 (d, J=8.2 Hz, 1H), 4.67-4.58 (m, 1H), 3.35 (dd, J=16.8, 8.1 Hz, 2H), 3.01 (dd, J=16.5, 5.7 Hz, 2H).

reactant | TFAA | 2.6 mmol, 361 μL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | (5-nitro-2,3-dihydro-1H-inden-2-yl)amine hydrochloride | 2.3 mmol, 500 mg | Cl.[N+](=O)([O-])C=1C=C2CC(CC2=CC1)N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-Trifluoro-N-(5-nitro-2,3-dihydro-1H-inden-2-yl)acetamide | 476 mg, 84% | FC(C(=O)NC1CC2=CC=C(C=C2C1)[N+](=O)[O-])(F)F | C11H9F3N2O3
